US08877815B2
Synthesis of (S)-Benzyl 2-(1-(2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamoyl)cyclopentyl)acetate
To a suspension of 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid (197 mg, 0.750 mmol) in THF (8 ml) at room temperature was added EDC.HCl (192 mg, 1.000 mmol) and HOBT (134 mg, 0.875 mmol). The mixture was stirred at room temperature for 10 minutes and was added a solution of (S)-2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethanamine (187 mg, 0.625 mmol) in THF and TEA (0.174 ml, 1.250 mmol). The mixture was stirred overnight at room temperature. The reaction was quenched by brine and was extracted with EtOAc. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by flash chromatography (silica gel, 1 to 3% EtOH/DCM) and gave the title compound: 134 mg (yield: 39%). LCMS (condition B): 544.3 (M+1); retention time=1.44 min.

reactant | 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid | 0.750 mmol, 197 mg | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)O)=O | C15H18O4
reactant | EDC.HCl | 1.000 mmol, 192 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.875 mmol, 134 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethanamine | 0.625 mmol, 187 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](N)C1=NN=NN1 | C15H14ClN5
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (S)-Benzyl 2-(1-(2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamoyl)cyclopentyl)acetate | yield: 39% | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C1=NN=NN1)NC(=O)C1(CCCC1)CC(=O)OCC1=CC=CC=C1 | C30H30ClN5O3
